US05872115
Step 1): To a solution of 5-fluoro-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide (prepared according to Preparation 24) (2.1 g, 4.68 mmol) in DMF (30 ml) was added diethylamine (1.46 ml, 14.06 mmol). The solution was refluxed overnight and evaporated under reduced pressure to give 5-diethylamino-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide (2.28 g, 97.5%): mp 167°-168° C.

reactant | 5-fluoro-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | 4.68 mmol, 2.1 g | FC=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)[N+](=O)[O-] | C26H26FN3O3
reactant | diethylamine | 14.06 mmol, 1.46 ml | C(C)NCC | C4H11N
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 5-diethylamino-2-nitro-N-[(1-diphenylmethylpiperidin-4-yl)methyl]benzamide | 2.28 g, 97.5% | C(C)N(C=1C=CC(=C(C(=O)NCC2CCN(CC2)C(C2=CC=CC=C2)C2=CC=CC=C2)C1)[N+](=O)[O-])CC | C30H36N4O3
